US08017779B2
The general methods described in Parts A and B of Example 2 were followed using 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine in lieu of 7-bromo-2-(ethoxymethyl)-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline and 2-oxazolidinone in lieu of 2-pyrrolidinone. The product, 3-[4-amino-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-7-yl]-1,3-oxazolidin-2-one (0.125 g) was isolated as an white solid with yellow tinge, m.p. 174-176.5° C.

reactant | 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)C)COCC | C16H19BrN4O
reactant | 7-bromo-2-(ethoxymethyl)-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | 2-oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 3-[4-amino-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-7-yl]-1,3-oxazolidin-2-one | 0.125 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)C)COCC)N2C(OCC2)=O | C19H24N6O3
